US05935956
2-(3,4-Dichlorophenyl)-2,4,4a,5,6,7-hexahydropyrido[4',3':6,7]cyclohepta[1,2-c]-pyridazin-3-one hydrochloride
Prepared according to the method described in Example 1 from 9-oxo-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridine-8-acetic acid and 4-chlorophenylhydrazine, the compound being dissolved in ether and hydrogen chloride in dioxan added to precipitate the hydrochloride salt.

reactant | 9-oxo-6,7,8,9-tetrahydro-5H-cyclohepta[c]pyridine-8-acetic acid | O=C1C(CCCC2=C1C=NC=C2)CC(=O)O | C12H13NO3
reactant | 4-chlorophenylhydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-(3,4-Dichlorophenyl)-2,4,4a,5,6,7-hexahydropyrido[4',3':6,7]cyclohepta[1,2-c]-pyridazin-3-one hydrochloride | Cl.ClC=1C=C(C=CC1Cl)N1N=C2C(CC1=O)CCCC1=C2C=NC=C1 | InChI=1S/C18H15Cl2N3O.ClH/c19-15-5-4-13(9-16(15)20)23-17(24)8-12-3-1-2-11-6-7-21-10-14(11)18(12)22-23;/h4-7,9-10,12H,1-3,8H2;1H
